US08802673B2
a) (S)-tert-Butyl 2-(4-(2,5-dichloropyrimidin-4-ylamino)phenyl)morpholine-4-carboxylate
A mixture of (5)-tert-butyl 2-(4-aminophenyl)morpholine-4-carboxylate (100 mg, 0.36 mmol), 2,4,5-trichloropyrimidine (66 mg, 0.36 mmol) and diisopropylethylamine (70 mg, 0.54 mmol) was dissolved in 2-propanol (1.5 ml) and stirred at 80° C. overnight. For work-up most of the solvent was evaporated, then aqueous ammonium chloride solution was added and the mixture was extracted with ethyl acetate. The aqueous phase was re-extracted with ethyl acetate twice. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (20 g silica gel, 10 to 30% ethyl acetate in heptane) to yield a white solid (141 mg, 92%). MS (ISP): 425.1 ([{35Cl}M+H]+), 427.1 ([{37Cl}M+H]+).

reactant | (5)-tert-butyl 2-(4-aminophenyl)morpholine-4-carboxylate | 0.36 mmol, 100 mg | NC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C15H22N2O3
reactant | 2,4,5-trichloropyrimidine | 0.36 mmol, 66 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | diisopropylethylamine | 0.54 mmol, 70 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-propanol | 1.5 ml | CC(C)O | C3H8O
product | (S)-tert-Butyl 2-(4-(2,5-dichloropyrimidin-4-ylamino)phenyl)morpholine-4-carboxylate | 141 mg, 92% | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)Cl | C19H22Cl2N4O3
